US04278681
To a suspension of 5.75 g (25 mM) 6-(4-aminophenyl)-1,2-dihydro-2-oxonicotinic acid and 175 ml of dichloromethane, 10.5 ml (75 mM) triethylamine and 9.5 ml (75 mM) chlorotrimethylsilane were added and stirred at room temperature for 1 hour. To a solution of 7.86 g (50 mM) of N-Acetyl-L-proline in 100 ml of dichloromethane at -10° C., 5.5 ml (50 mM) of N-methylmorpholine and 6.5 ml (50 mM) of isobutyl chloroformate were added and stirred at -10° C. for 1/2 hour. To this cold mixed anhydride mixture was added the silylated 6-(4-aminophenyl)-1,2-dihydro-2-oxonicotinic acid and the resulting mixture was stirred for 3 hrs in an ice bath and overnight at room temperature. Next, 25 ml of isopropanol was added to the reaction mixture and stirred. The reaction mixture was evaporated and the residue was triturated with ice and water. The solid was collected by filtration and washed with water, isopropanol and ether to yield 4.82 g of 6-[4-(N-acetyl-L-prolylamino)phenyl]-1,2-dihydro-2-oxonicotinic acid, mp 288°-290° dec. From the filtrate an additional 3.94 g of product was obtained.

reactant | 6-(4-aminophenyl)-1,2-dihydro-2-oxonicotinic acid | 25 mM, 5.75 g | NC1=CC=C(C=C1)C=1NC(C(C(=O)O)=CC1)=O | C12H10N2O3
reactant | chlorotrimethylsilane | 75 mM, 9.5 ml | Cl[Si](C)(C)C | C3H9ClSi
reactant | N-Acetyl-L-proline | 50 mM, 7.86 g | C(C)(=O)N1[C@H](C(=O)O)CCC1 | C7H11NO3
reactant | N-methylmorpholine | 50 mM, 5.5 ml | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 50 mM, 6.5 ml | ClC(=O)OCC(C)C | C5H9ClO2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 175 ml | ClCCl | CH2Cl2
solvent | isopropanol | 25 ml | C(C)(C)O | C3H8O
solvent | triethylamine | 75 mM, 10.5 ml | C(C)N(CC)CC | C6H15N
product | 6-[4-(N-acetyl-L-prolylamino)phenyl]-1,2-dihydro-2-oxonicotinic acid | 4.82 g | C(C)(=O)N1[C@H](C(=O)NC2=CC=C(C=C2)C=2NC(C(C(=O)O)=CC2)=O)CCC1 | C19H19N3O5
